US05856484
0.2 g of 6-(4-tert-butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid in 5 ml of dimethylacetamide was stirred at 20° C. for 3 hours with 0.04 g of sodium hydride and 0.07 g of 2-chloropyrimidine and the mixture was neutralized with saturated NH4Cl solution. The reaction mixture was washed with ethyl acetate. The aqueous phase was adjusted to pH 2 with 1N HCl and extracted with chloroform. The organic phase was dried, the solvent was evaporated and the residue was purified over silica gel with chloroform-methanol-water 60:35:5. There was obtained 0.16 g of 4-(4-tert-butyl-phenylsulphonylamino)-5-(3-methoxy-phenoxy)-6-(2-pyrimidin-2-yloxy-ethoxy)-pyrimidine-2-carboxylic acid, MS: (M+H)+ 596.

reactant | 6-(4-tert-butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid | 0.2 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)C(=O)O)OCCO)OC1=CC(=CC=C1)OC | C24H27N3O8S
reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | 2-chloropyrimidine | 0.07 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 4-(4-tert-butyl-phenylsulphonylamino)-5-(3-methoxy-phenoxy)-6-(2-pyrimidin-2-yloxy-ethoxy)-pyrimidine-2-carboxylic acid | 0.16 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=CC=N1)C(=O)O | C28H29N5O8S
